US04780477
By using 1-(2-diisopropylaminoethyl)-7-methylisatin and semicarbazide hydrochloride, a method analogous to that described in Example 4 was carried out to obtain (E)-1-(2-diisopropylaminoethyl)-7-methylisatin 3-semicarbazone having a melting point of 194°-195° C. (yield: 75.7%).

reactant | 1-(2-diisopropylaminoethyl)-7-methylisatin | C(C)(C)N(CCN1C(=O)C(=O)C2=CC=CC(=C12)C)C(C)C | C17H24N2O2
reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
product | (E)-1-(2-diisopropylaminoethyl)-7-methylisatin 3-semicarbazone | yield: 75.7% | C(C)(C)N(CCN1C(=O)/C(/C2=CC=CC(=C12)C)=N/NC(=O)N)C(C)C | C18H27N5O2
